US08710043B2
Step 1. Methyl 5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylate
To a solution of methyl 6-oxo-1,6-dihydro-3-pyridinecarboxylate (2.00 g, 13.06 mmol, Bionet Research) in MeCN (40 mL) was added SelectFluor® (4.63 g, 13.06 mmol, Aldrich). The resulting mixture was then heated at 65° C. for 18 h. Then, the mixture was cooled to rt and water (20 mL) was added. The solvent, (MeCN) was removed and the remaining aqueous solution was extracted with EtOAc (2×20 mL). The combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in MeOH (100 mL) and silica gel was added. The mixture was concentrated and dried in vacuo. Purification by silica gel flash column chromatography (0%-100% EtOAc/hexane) gave the title compound as a white solid. MS (ESI, positive ion) m/z: 172 (M+H).

reactant | methyl 6-oxo-1,6-dihydro-3-pyridinecarboxylate | 13.06 mmol, 2.00 g | O=C1C=CC(=CN1)C(=O)OC | C7H7NO3
reactant | SelectFluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | water | 20 mL | O | H2O
solvent | MeCN | 40 mL | CC#N | C2H3N
product | Methyl 5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylate | FC1=CC(=CNC1=O)C(=O)OC | C7H6FNO3
